US07666878B2
BEMP (182 μl, 0.64 mmol) is added to a stirring solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (prepared as described in U.S. Pat. No. 3,320,268, 82 mg, 0.40 mmol) in DMF (2.6 ml). After 80 minutes, 1-bromomethyl-4-ethanesulfonyl-benzene (75 μl, 0.63 mmol) is added and the reaction stirred for 2 hours before partitioning between water and 1:1 EtOAc/diethyl ether. The organic layer is washed with brine then reduced in vacuo. The residue is purified by flash column chromatography (1:1 iso-hexane/EtOAc elution) to furnish [1-(4-ethanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester as a solid.

reactant | BEMP | 0.64 mmol, 182 μl | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | 1-bromomethyl-4-ethanesulfonyl-benzene | 0.63 mmol, 75 μl | BrCC1=CC=C(C=C1)S(=O)(=O)CC | C9H11BrO2S
solvent | DMF | 2.6 ml | CN(C)C=O | C3H7NO
product | [1-(4-ethanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)CC2=CC=C(C=C2)S(=O)(=O)CC)C)=O | C20H22N2O4S
